US06005119
A mixed solution obtained by mixing 3.0 g of 100% pure (R)-1-benzyl-3-p-toluenesulfonyloxypyrrolidine with 3.0 ml of ethanol and adding dropwise 0.80 ml of 35% aqueous hydrochloric acid thereto with cooling on an ice-water bath was charged, together with 150 mg of moist 5% palladium-carbon (water content 52% by weight), into an autoclave, hydrogen was introduced thereinto and the autoclave was heated to raise the temperature to 60 and the pressure to 203 kPa, and the reaction was allowed to proceed for 4.5 hours. Hydrogen absorption came to an end in 2.5 hours after the start of hydrogen introduction. After completion of the reaction, the reaction mixture was treated in the same manner as in Example 4 to give 2.51 g (yield: 86 mole percent) of (R)-3-p-toluenesulfonyloxypyrrolidine hydrochloride.

reactant | (R)-1-benzyl-3-p-toluenesulfonyloxypyrrolidine | 3.0 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C18H21NO3S
reactant | hydrochloric acid | 0.80 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | (R)-3-p-toluenesulfonyloxypyrrolidine hydrochloride | 2.51 g | Cl.C1(=CC=C(C=C1)S(=O)(=O)O[C@H]1CNCC1)C | InChI=1S/C11H15NO3S.ClH/c1-9-2-4-11(5-3-9)16(13,14)15-10-6-7-12-8-10;/h2-5,10,12H,6-8H2,1H3;1H/t10-;/m1./s1
